US04497813
N-(2-hydroxyethyl)-N'-(2-benzyloxybenzyl)urea
A solution of 73.6 g of crude 2-benzyloxybenzyl isocyanate in 120 ml of methylene chloride is added dropwise in the course of 50 minutes to a solution of 36.8 ml of ethanolamine in 370 ml of methylene chloride. The reaction is slightly exothermic. After 2 hours the reaction solution is washed three times with 200 ml of water each time and dried using sodium sulphate. Methylene chloride is distilled off and the residue is recrystallised from isopropanol. The resulting product melts at 92°-94°.

reactant | 2-benzyloxybenzyl isocyanate | 73.6 g | C(C1=CC=CC=C1)OC1=C(CN=C=O)C=CC=C1 | C15H13NO2
reactant | ethanolamine | 36.8 ml | C(O)CN | C2H7NO
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 370 ml | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxyethyl)-N'-(2-benzyloxybenzyl)urea | OCCNC(=O)NCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C17H20N2O3
